US20010009915A1
3-(6-{[(4-Chlorophenyl)sulphonyl]amino}-3-{2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl}-5,6,7,8-tetrahydro-1-naphthyl)propanoic acid
6.5 g (17.3 mmol) of 4-(4-fluorobenzoyl)piperidine tosylate and 2.4 g (17.3 mmol) of potassium carbonate are added to a solution of 3.5 g (5.7 mmol) of methyl 3-[6-{[(4-chlorophenyl)sulphonyl]amino}-3-(2-{[(4-methylphenyl)sulphonyl]oxy}ethyl)-5,6,7,8-tetrahydro-1-naphthyl]propanoate, described in Application EP 864 561, in 100 ml of DMF. The reaction mixture is heated at reflux for one hour, then concentrated. The residue is taken up in dichloromethane and washed with water. The organic phase is dried and concentrated and then purified by chromatography on silica gel, using as eluant a dichloromethane/methanol/ammonia mixture (98/2/0.2), to yield the expected compound.

reactant | 4-(4-fluorobenzoyl)piperidine tosylate | 17.3 mmol, 6.5 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | potassium carbonate | 17.3 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-[6-{[(4-chlorophenyl)sulphonyl]amino}-3-(2-{[(4-methylphenyl)sulphonyl]oxy}ethyl)-5,6,7,8-tetrahydro-1-naphthyl]propanoate | 5.7 mmol, 3.5 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC=2C=C(C=C(C2CC1)CCC(=O)OC)CCOS(=O)(=O)C1=CC=C(C=C1)C | C29H32ClNO7S2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(6-{[(4-Chlorophenyl)sulphonyl]amino}-3-{2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl}-5,6,7,8-tetrahydro-1-naphthyl)propanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC=2C=C(C=C(C2CC1)CCC(=O)O)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C33H36ClFN2O5S
